US07179823B1
Sodium hydride (60%, oily, 1.85 g) was added to a mixture of 4-benzyloxybenzyl chloride (10.8 g), ethyl 3-phenyl-1H-pyrazole-4-carboxylate (10.0 g) and N,N-dimethylformamide (50 ml) at 0° C., and the mixture was stirred for 1.5 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield ethyl 1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazole-4-carboxylate (15.3 g, yield: 80%). This was crystallized from ethyl acetate-diisopropyl ether. Melting point: 102–103° C.

reactant | Sodium hydride | 1.85 g | [H-].[Na+]
reactant | 4-benzyloxybenzyl chloride | 10.8 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | ethyl 3-phenyl-1H-pyrazole-4-carboxylate | 10.0 g | C1(=CC=CC=C1)C1=NNC=C1C(=O)OCC | C12H12N2O2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-(4-benzyloxybenzyl)-3-phenyl-1H-pyrazole-4-carboxylate | 15.3 g, yield: 80% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)C2=CC=CC=C2)C=C1 | C26H24N2O3
